US05246948
Synthesis of 4-[3-(1-naphthoylamino)propylthio]pyridine hydrochloride
To a solution of 1.00 g (4.15 mmol) of 4-(3-aminopropylthio) pyridine dihydrochloride and 2.78 ml (19.9 mmol) of trietylamine in 40 ml of methylene chloride was added 0.75 ml (4.98 mmol) of 1-naphthoyl chloride under ice-cooling with stirring and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was washed with an aqueous saturated sodium bicarbonate solution and water and dried. The solvent was distilled off. The residue was purified by column chromatography (eluent: methanol/ ethyl acetate=1:10) to obtain the powder which was washed with ether and dried to obtain 1.00 g of the desired compound (free base) (74.8%, yellow powder), mp: 113.0°-114.0° C.

reactant | 4-(3-aminopropylthio) pyridine dihydrochloride | 4.15 mmol, 1.00 g | Cl.Cl.NCCCSC1=CC=NC=C1
reactant | trietylamine | 19.9 mmol, 2.78 ml | C(C)N(CC)CC | C6H15N
reactant | 1-naphthoyl chloride | 4.98 mmol, 0.75 ml | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(1-naphthoylamino)propylthio]pyridine hydrochloride | 1.00 g, 74.8% | Cl.C1(=CC=CC2=CC=CC=C12)C(=O)NCCCSC1=CC=NC=C1 | InChI=1S/C19H18N2OS.ClH/c22-19(18-8-3-6-15-5-1-2-7-17(15)18)21-11-4-14-23-16-9-12-20-13-10-16;/h1-3,5-10,12-13H,4,11,14H2,(H,21,22);1H
